US05387685
α-(3,4-Dimethoxyphenyl)-7-[2-(dimethylamino)ethoxy]-3,4-dihydro-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolineheptanenitrile
To a solution of 0.583 g of α-(3,4-dimethoxyphenyl)-3,4-dihydro-7-hydroxy-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolineheptanenitrile in 20 mL of N,N-dimethylformamide is added 0.051 g of 60% sodium hydride in oil and the solution stirred for 1 hour. To this solution is added 0.34 g of freshly prepared 2-dimethylaminoethylchloride and 0.60 g of potassium iodide. The solution is stirred at room temperature for 18 hours and then the volatiles are removed at reduced pressure. The residue is dissolved in a minimum amount of ethyl acetate and 5 volumes of diethyl ether is added. This solution is passed through a short pad of hydrous magnesium silicate and the volatiles are removed at reduced pressure. The residue is chromatographed on silica gel using a gradient of diethyl ether to ethyl acetate to methyl alcohol. This afford 0.14 g of the desired product as a clear glass. MS(Hi res):

reactant | α-(3,4-dimethoxyphenyl)-3,4-dihydro-7-hydroxy-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolineheptanenitrile | 0.583 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2CC1)OC)O)SC1=CC=C(C=C1)C | C32H38N2O4S
reactant | sodium hydride | 0.051 g | [H-].[Na+]
reactant | 2-dimethylaminoethylchloride | CN(CCCl)C | C4H10ClN
reactant | potassium iodide | 0.60 g | [I-].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | α-(3,4-Dimethoxyphenyl)-7-[2-(dimethylamino)ethoxy]-3,4-dihydro-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolineheptanenitrile | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2CC1)OC)OCCN(C)C)SC1=CC=C(C=C1)C | C36H47N3O4S
